Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
encephalopathy and adrenal mass
 
Major Surgical or Invasive Procedure:
Adrenal biopsy ___

 
History of Present Illness:
___ with HCV cirrhosis, esophageal varices with history of
bleeding (s/p TIPS on ___, and HCC who presents from liver
tumor clinic today with hepatic encephalopathy and a new adrenal
mass. His medical history is plagued by intermittent
non-adherence and loss of insurance. He had a surveillance CT 
abd
on ___, which revealed a lesion consistent with HCC, as well
as a new, left adrenal mass of unclear etiology. He was seen in
the liver tumor clinic on ___, at which time his 
presentation
was concerning for hepatic encephalopathy, though he reports
adherence to lactulose. He was referred to the hospital for
evaluation of confusion and expedited tumor work-up.

Per patient, he has been feeling increasingly confused and
fatigued for ___ years. He feels he is slow to move around,
endorses DOE. He denies any acute change in his symptoms. He
denies f/c, lightheadedness/dizziness, cough/cold, CP/palp, SOB,
abdominal pain/N/V, dysuria, changes in BM, joint/MSK pain. He
reports a 65lb weight loss that he attributes to intentional
change in his eating habits.  

Of note, his HCV was previous treated with Harvoni, though
therapy with this medication was interrupted by a loss of
insurance. After this, he was found to still have a positive HCV
viral load (HCV genotype 3a), and was started on treatment with
Epclusa plus Ribavirin in ___, though has reportedly failed
treatment on this regimen, and is no longer being treated. 

In the ED initial vitals: T 96.6, HR 59, BP 98/61, RR 18, SpO2
100% RA
- Exam notable for: No asterixis, + spider hemangiomas, diffuse
wheeze, no tappable pocket of ascites) 
- Imaging notable for: 
RUQ US with patent TIPS, stable hypoechoic lesion of the left
lobe of the liver. 
CXR with no acute cardiopulmonary process. 
- Labs notable for: H/H 11.1/31.9, ALT/AST 58/104, Alk phos 68, 
t
bil 1.1, INR 1.3, UA with small blood. 
- Patient was given: 500cc NS

Vitals prior to transfer: T 97.9, HR 63, BP 107/74, RR 16, SpO2
99% 

On arrival to the floor, patient denies any complaints or
concerns. He reports he is planning to leave ___ afternoon 
and
would like assistance from the case manager to help him get into
a different group home as he does not like where he currently
lives.

 
Past Medical History:
-bipolar disorder  
-attention deficit disorder  
-Insomnia  
-hepatitis C with cirrhosis  
-tobacco abuse  
-COPD  
-gastroesophageal reflux with ___ esophagus  

 
Social History:
___
Family History:
No known family history of liver disease
 
Physical Exam:
ADMISSON EXAM
==============
VS: 98.6 PO ___ 16 94 RA 
GENERAL: well appearing, no acute distress
HEENT: AT/NC. PERRL, EOMI. OP clear
NECK: supple, no LAD
CARDIAC: RRR, (+)S1, S2, no m/r/g
PULMONARY: prolonged expiratory phase, no wheeze/rhonchi
ABDOMEN: soft, ND/NT, (+)BS, no fluid shift
EXTREMITIES: WWP, no edema
SKIN: (+) spider angiomas over chest
NEUROLOGIC: AAOx3, able to say days of week backwards, no
asterixis
PSYCHIATRIC: appropriate, interactive, linear thought,
perseverates

DISCHARGE EXAM
===============
VS:  97.6, BP 97 / 65, P71,RR 18,PO2 95 RA 
General:  well-appearing, AxO x3
HEENT: sclera anicteric
Lung: CTAB, no W/R/C
Card: RRR, S1+S2, no M/R/G
Abd: mildly distended, soft, non-tender. Normoactive bowel
sounds.
Ext: WWP, no edema
Neuro:  no asterixis.

 
Pertinent Results:
ADMISSION LABS
===============
___ 10:10AM BLOOD WBC-4.1 RBC-3.23* Hgb-10.9* Hct-31.7* 
MCV-98 MCH-33.7* MCHC-34.4 RDW-15.5 RDWSD-55.1* Plt ___
___ 10:10AM BLOOD Neuts-63.7 ___ Monos-9.8 Eos-1.7 
Baso-0.5 Im ___ AbsNeut-2.60 AbsLymp-0.97* AbsMono-0.40 
AbsEos-0.07 AbsBaso-0.02
___ 10:10AM BLOOD ___ PTT-28.8 ___
___ 10:10AM BLOOD UreaN-15 Creat-0.8 Na-140 K-4.5 Cl-103 
HCO3-23 AnGap-14
___ 10:10AM BLOOD ALT-60* AST-106* AlkPhos-75 TotBili-1.1
___ 10:10AM BLOOD Albumin-3.6
___ 12:04PM BLOOD Lactate-1.2

MICRO/OTHER PERTINENT LABS
===========================
___ 10:10AM BLOOD TSH-3.5
___ 10:10AM BLOOD Cortsol-6.3
___ 06:16AM BLOOD Vanco-25.8*
___ 10:10AM BLOOD ALDOSTERONE-WNL
___ 10:10AM BLOOD Metanephrines (Plasma)-normetanephrines 
0.95, free metanephrines <0.2
___ 10:10AM BLOOD RENIN - FROZEN-WNL
___ 10:10AM BLOOD ACTH - FROZEN-WNL

blood cultures ___ negative x2
___ 4:30 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.. 

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ ON ___ AT 
0520. 
      GRAM POSITIVE COCCI IN CLUSTERS. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 

___ 2:30 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

DISCHARGE LABS
==============
___ 06:14AM BLOOD WBC-3.6* RBC-3.21* Hgb-10.7* Hct-30.8* 
MCV-96 MCH-33.3* MCHC-34.7 RDW-14.5 RDWSD-50.9* Plt Ct-79*
___ 06:14AM BLOOD ___ PTT-31.4 ___
___ 06:14AM BLOOD Glucose-107* UreaN-14 Creat-0.6 Na-136 
K-4.2 Cl-100 HCO3-25 AnGap-11
___ 06:14AM BLOOD ALT-67* AST-124* AlkPhos-66 TotBili-1.0
___ 06:14AM BLOOD Calcium-8.5 Phos-3.6 Mg-1.9

IMAGING
=======
CXR ___
No acute cardiopulmonary process.

RUQ US ___.  Patent TIPS, with stable velocities and appropriate 
direction of flow. 
2.  Stable hypoechoic lesion in the left lobe of the liver.  An 
additional 
hypoechoic lesion with hypoechoic rim measuring 2.4 cm in the 
left lobe, not 
well seen on prior study. 

CT chest w/ contrast ___. No definite evidence of metastatic disease in the chest.  
cluster of 
nodules may be inflammatory/infection.  Nonspecific micro 
nodules measuring 
less than 5 mm in the right upper lobe and right lower lobe as 
described 
above. 
2. Moderate paraseptal and centrilobular emphysema predominantly 
in the upper 
lobes. 
3. Findings compatible with chronic bronchitis. 
4. Cirrhotic liver and left adrenal mass, better characterized 
on the 
multiphasic CT from ___. 

Bone Scan ___
FINDINGS:  The images show 2 foci of radiotracer uptake in 
adjacent left-sided posterolateral fifth and sixth ribs, which 
correlates with old healed rib fractures seen on recent CT 
chest.  No suspicious foci of radiotracer uptake.  
The kidneys and urinary bladder are visualized, the normal route 
of tracer 
excretion.  The left kidney is displace inferiorly. 
IMPRESSION:  No evidence of osseous metastatic disease. 

TTE ___
IMPRESSION: No vegetations or clinically-significant regurgitant 
valvular disease seen (suboptimal-quality study). Normal global 
and regional biventricular systolic function. 

 
Brief Hospital Course:
___ with HCV cirrhosis, esophageal varices with history of 
bleeding (s/p TIPS on ___, and ___ who presents from liver 
tumor clinic with concern for confusion and new adrenal mass.

#ADRENAL MASS: Patient with concerning mass incidentally noted 
on imaging. He endorses significant fatigue and weight loss over 
the course of > ___ year (weight loss seems intentional). He was 
referred into the hospital for expedited evaluation. TSH, 
aldosterone, cortisol, ACTH, renin WNL. Normetanephrines just 
above upper limit of normal at 0.95, free metanephrines normal. 
CT chest w/o metastatic disease and notable for micro nodules, 
bone scan negative for metastatic disease as well. Adrenal 
biopsy occurred ___, and patient will follow up with oncology 
(Dr. ___ and liver doctor (___) on discharge for 
further management. 

#COAG NEGATIVE STAPH BACTEREMIA: Coag negative staph in ___ 
bottles from ___. CXR and UA without evidence of infection. 
No other evidence for nidus of infection, no recent 
instrumentation. No hardware. Recent dental appt but no 
extraction or invasive procedure. In the setting of possible 
decompensation of liver failure with HE (HE was not apparent on 
admission, but was noted in clinic prior to admission), patient 
was covered with IV vanc ___. ID was consulted and found that 
his overall picture was a contaminant and recommended 
discontinuing antibiotic (stopped on ___. Remained HD stable, 
febrile, no leukocytosis, no symptoms. Repeat blood cx negative.

#CONFUSION: Patient endorses ___ year of confusion, although is 
oriented on neurologic exam without asterixis. TSH and cortisol 
normal. There was a question of coag negative staph bacteremia, 
as above, but felt to be due to contaminant and patient's mental 
status was felt to be at baseline, so do not that there was any 
infection nor any acute altered mental status. Maintained ___ 
BM's per day, no evidence of asterixis throughout admission. 
Continued on lactulose (dose changed to 30mg QID), with goal ___ 
BMs/day. 

#HCV CIRRHOSIS:
#ESOPHAGEAL VARICES, s/p TIPS: MELD-NA 10, Child class A. Has 
failed HCV treatment with Harvoni and Epclusa plus Ribavirin. 
Cirrhosis has been complicated by esophageal varices, which have 
bled in the past. s/p TIPS at ___ in ___ TIPS appears patent 
on admission RUQ US. No evidence of PVT. History of hepatic 
encephalopathy and ascites, currently without enough ascites to 
tap. Mild transaminitis is improving, likely ___ untreated HCV. 
Continued on home lactulose (dose changed to 30mg QID), 
rifaximin, and spironolactone. 

#HCC: not yet treated; being seen in liver tumor clinic. 
According to liver tumor clinic note from ___, ___ would be 
amenable to directed therapy. Concerned that adrenal mass may be 
metastatic disease. Will follow up with liver tumor clinic as 
scheduled.

#Bipolar disorder: Continued on home aripriprazole, Seroquel, 
trazodone, keppra.

#Tobacco abuse: given Nicotine patch, but consistently went 
outside to smoke, so the patch was discontinued.

TRANSITIONAL ISSUES
===================
[ ] Adrenal biopsy will be followed-up by liver tumor team.
[ ] Lactulose dose changed to 30mg QID. Can be titrated to 
achieve ___ BMs/day.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Magnesium Oxide 400 mg PO DAILY 
2. Propranolol 20 mg PO DAILY 
3. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheeze, SOB 
4. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
5. TraZODone 200 mg PO QHS 
6. ARIPiprazole 10 mg PO DAILY 
7. Lactulose 45 mL PO TID 
8. Meclizine 25 mg PO Q8H:PRN dizziness 
9. Tiotropium Bromide 1 CAP IH DAILY 
10. Rifaximin 550 mg PO BID 
11. Spironolactone 25 mg PO DAILY 
12. Omeprazole 40 mg PO DAILY 
13. Famotidine 20 mg PO BID 
14. Aspirin 81 mg PO DAILY 
15. QUEtiapine Fumarate 600 mg PO QHS 
16. Breo Ellipta (fluticasone-vilanterol) 100-25 mcg/dose 
inhalation DAILY 
17. LevETIRAcetam 1000 mg PO BID 
18. Robafen Cough (dextromethorphan HBr) 15 mg oral Q4H:PRN 
19. Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
20. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Lactulose 30 mL PO QID  
2.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
3.  Albuterol Inhaler ___ PUFF IH Q4H:PRN wheeze, SOB  
4.  ARIPiprazole 10 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Breo Ellipta (fluticasone-vilanterol) 100-25 mcg/dose 
inhalation DAILY  
7.  Famotidine 20 mg PO BID  
8.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild  
9.  LevETIRAcetam 1000 mg PO BID  
10.  Magnesium Oxide 400 mg PO DAILY  
11.  Meclizine 25 mg PO Q8H:PRN dizziness  
12.  Omeprazole 40 mg PO DAILY  
13.  Propranolol 20 mg PO DAILY  
14.  QUEtiapine Fumarate 600 mg PO QHS  
15.  Rifaximin 550 mg PO BID  
16.  Robafen Cough (dextromethorphan HBr) 15 mg oral Q4H:PRN  
17.  Spironolactone 25 mg PO DAILY  
18.  Tiotropium Bromide 1 CAP IH DAILY  
19.  TraZODone 200 mg PO QHS  
20.  Vitamin D ___ UNIT PO 1X/WEEK (MO)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: hepatic encephalopathy, adrenal mass
SECONDARY: HCV/EtOH cirrhosis, hepatocellular carcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
WHY WERE YOU ADMITTED TO THE HOSPITAL?
- You were found to be confused at your clinic appointment, and 
sent to the hospital for management of your confusion, as well 
as investigation into the new mass seen in your adrenal gland 
(sitting on top of your kidney).

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You were given extra doses of lactulose to help improve the 
confusion you were having, which was likely due to your liver 
disease.
- You had a CT scan of your chest and a bone scan to look for 
any other masses in your body.
- You had a lot of blood tests drawn in the hopes that we could 
figure out what kind of mass you have in your adrenal gland. 
These tests were all normal.
- You grew a bacteria in your blood, but it was not a true 
infection. You were on an antibiotic for one day and it was 
stopped. You repeat blood cultures had no bacteria. 
- You had a biopsy of the mass in your adrenal gland to find out 
what it is. The results were not yet back by the time you left 
the hospital.

WHAT WILL HAPPEN WHEN YOU LEAVE THE HOSPITAL?
- You will follow-up with Dr ___ Dr ___ in the liver 
tumor clinic.
- Continue to take all of your medicines as prescribed.
 
Followup Instructions:
___